US04933458
In a mixture of 35 ml of chloroform and 3 ml of methanol was dissolved 3.71 g of 2-(2-dimethylaminobenzylthio)-3,6,7-trimethylquinoxaline. To the chilled solution kept at a temperature of lower than 0° C. (temperature of solution) was slowly added 2.45 g of m-chloroperbenzoic acid (purity: 80%). After the reaction was complete, chloroform and saturated aqueous NaHCO3 solution were added to the reaction mixture. The organic layer was separated and dried over sodium sulfate. The sodium sulfate was then removed by filtration, and the solvent was evaporated under reduced pressure from the filtrate. The residue was purified by silica gel column chromatography (acetone/hexane). The eluate was concentrated and the resulting residue was crystallized from ether/hexane to give 1.12 g of 2-(2-dimethylaminobenzylsulfinyl)-3,6,7-trimethylquinoxaline as a yellow crystalline powder, m.p. 83°-88° C. (decompn.).

reactant | 2-(2-dimethylaminobenzylthio)-3,6,7-trimethylquinoxaline | 3.71 g | CN(C1=C(CSC2=NC3=CC(=C(C=C3N=C2C)C)C)C=CC=C1)C | C20H23N3S
reactant | m-chloroperbenzoic acid | 2.45 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | 35 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 3 ml | CO | CH4O
product | 2-(2-dimethylaminobenzylsulfinyl)-3,6,7-trimethylquinoxaline | 1.12 g | CN(C1=C(CS(=O)C2=NC3=CC(=C(C=C3N=C2C)C)C)C=CC=C1)C | C20H23N3OS
